US08138189B2
Step 6: 3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenol
A solution of 3-(2-chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(2-methyl-pyridin-4-yl)-butan-2-ol (2.77 g) in aqueous HBr (48%, 50 mL) was refluxed for 4 hours. The reaction mixture was cooled, poured into ice and basified with sat. Na2CO3 to pH 10. The aqueous phase was then extracted with ethyl acetate and the organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a colorless foam (2.34 g, 88%). MS (m/e)=346.1 [MH−].

reactant | 3-(2-chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(2-methyl-pyridin-4-yl)-butan-2-ol | 2.77 g | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)C)C | C17H17ClF3NO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HBr | 50 mL | Br | BrH
product | 3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenol | 2.34 g, 88% | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=CC(=NC=C1)C)O)C)O | C16H15ClF3NO2
